US07517875B2
After dissolving 4-[(1H-benzimidazol-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (4.33 g, 13.1 mmol) in methanol (10 mL), a 4N hydrogen chloride-1,4-dioxane solution (33 mL, 131 mmol) was added in small portions at a time in an ice bath, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was cooled on ice, 2N aqueous sodium hydroxide was added to adjust the pH to approximately 11. Salt was added to the aqueous solution to saturation, and the organic layer obtained by extraction with 1-butanol (100 mL×3 times) was washed with saturated brine and then dried over anhydrous sodium sulfate. The dried 1-butanol was concentrated under reduced pressure to obtain (1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine.

reactant | 4-[(1H-benzimidazol-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 13.1 mmol, 4.33 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC2=C(N1)C=CC=C2 | C18H26N4O2
reactant | hydrogen chloride-1,4-dioxane | 131 mmol, 4N, 33 mL | O1CCOCC1.Cl
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | 1-butanol | 100 mL | C(CCC)O | C4H10O
solvent | methanol | 10 mL | CO | CH4O
product | (1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine | N1C(=NC2=C1C=CC=C2)NCC2CCNCC2 | C13H18N4
